US05932595
2-{4-[4-(4-Fluorophenoxy)phenylthio]-tetrahydropyran-4-yl}-N-hydroxyacetamide (500 mg) was dissolved in methanol (25 ml). OXONE (400 mg) in water (5 ml) was added. After stirring for 30 minutes, the mixture was partitioned between methylene chloride and water. Preparative TLC on silica gel and elution with 10% methanol/methylene chloride gave 2-{4-[4-(4-fluorophenoxy)phenylsulfinyl]-tetrahydropyran-4-yl}-N-hydroxyacetamide (402 mg, m.p. 120° C.).

reactant | 2-{4-[4-(4-Fluorophenoxy)phenylthio]-tetrahydropyran-4-yl}-N-hydroxyacetamide | 500 mg | FC1=CC=C(OC2=CC=C(C=C2)SC2(CCOCC2)CC(=O)NO)C=C1 | C19H20FNO4S
reactant | OXONE | 400 mg | OOS(=O)[O-].[K+]
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 2-{4-[4-(4-fluorophenoxy)phenylsulfinyl]-tetrahydropyran-4-yl}-N-hydroxyacetamide | 402 mg | FC1=CC=C(OC2=CC=C(C=C2)S(=O)C2(CCOCC2)CC(=O)NO)C=C1 | C19H20FNO5S
